US07041685B2
5-(3-Chloro-thiophen-2-yl)-3-(4-methyl-phenyl)-1H-[1,2,4]-triazole
The title compound was prepared from 4-methyl-benzamidine hydrochloride and 3-chloro-thiophene-2-carboxylic acid hydrazide by a procedure similar to Example 88b as a yellow solid (0.054 g, 17%). 1H NMR (CD3OD): 7.80 (d, J=7.8 Hz, 2H), 7.52 (d, J=6.0 Hz, 1H), 7.22 (d, J=8.4 Hz, 2H), 6.97 (d, J=5.10 Hz, 1H), 2.30 (s, 3H).

reactant | 4-methyl-benzamidine hydrochloride | Cl.CC1=CC=C(C(=N)N)C=C1
reactant | 3-chloro-thiophene-2-carboxylic acid hydrazide | ClC1=C(SC=C1)C(=O)NN | C5H5ClN2OS
product | 5-(3-Chloro-thiophen-2-yl)-3-(4-methyl-phenyl)-1H-[1,2,4]-triazole | ClC1=C(SC=C1)C1=NC(=NN1)C1=CC=C(C=C1)C | C13H10ClN3S
